US07074798B2
b) 7-Allyl-8-chloro-3-methyl-3,7-dihydropurine-2,6-dione
8-Chloro-3-methyl-3,7-dihydropurine-2,6-dione (868 mg) and potassium carbonate (628 mg) were suspended in N,N-dimethylformamide (10 ml), and allyl bromide was added dropwise thereto while cooling on ice. After stirring the reaction mixture at room temperature for 17 hours, the resulting white suspension was diluted with ethyl acetate (30 ml) and water (4 ml), and was filtered to give a white solid. The solid was washed with water and ethyl acetate to give 797 mg of the title compound.

reactant | 8-Chloro-3-methyl-3,7-dihydropurine-2,6-dione | 868 mg | ClC1=NC=2N(C(NC(C2N1)=O)=O)C | C6H5ClN4O2
reactant | potassium carbonate | 628 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 4 ml | O | H2O
product | 7-Allyl-8-chloro-3-methyl-3,7-dihydropurine-2,6-dione | 797 mg | C(C=C)N1C(=NC=2N(C(NC(C12)=O)=O)C)Cl | C9H9ClN4O2
